US07470710B2
Description 61: (RS)-5,6-Difluoro-1-methyl-2-piperidin-2-ylmethyl-1H-benzoimidazole
(RS)-2-(5,6-Difluoro-1-methyl-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester, D60 (0.5 g) was treated with trifluoroacetic acid (5 ml) as described for Description 6 to afford the title compound (0.363 g)

reactant | (RS)-2-(5,6-Difluoro-1-methyl-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CC1=NC2=C(N1C)C=C(C(=C2)F)F | C19H25F2N3O2
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (RS)-5,6-Difluoro-1-methyl-2-piperidin-2-ylmethyl-1H-benzoimidazole | 0.363 g | FC1=CC2=C(N(C(=N2)CC2NCCCC2)C)C=C1F | C14H17F2N3
